US06242227B1
A further embodiment of the present invention is the use of a microorganism which has been genetically modified to increase the action of HMG-CoA reductase. It should be noted that reference to increasing the action of HMG-CoA reductase and other enzymes discussed herein refers to any genetic modification in the microorganism in question which results in increased functionality of the enzymes and includes higher activity of the enzymes, reduced inhibition or degradation of the enzymes and overexpression of the enzymes. For example, gene copy number can be increased, expression levels can be increased by use of a promoter that gives higher levels of expression than that of the native promoter, or a gene can be altered by genetic engineering or classical mutagenesis to increase the activity of an enzyme. One of the key enzymes in the mevalonate-dependent isoprenoid biosynthetic pathway is HMG-CoA reductase which catalyzes the reduction of 3-hydroxy-3-methylglutaryl-coenzyme A (HMG-CoA). This is the primary rate-limiting and first irreversible step in the pathway, and increasing HMG-CoA reductase activity leads to higher yields of squalene and ergosterol in a wild-type strain of S. cerevisiae, and farnesol in an erg9 strain. One mechanism by which the action of HMG-CoA reductase can be increased is by reducing inhibition of the enzyme, by either genetically modifying the enzyme or by modifying the system to remove the inhibitor. For instance, both sterol and non-sterol products of the isoprenoid pathway feedback inhibit this enzyme (see, e.g., Parks and Casey, Annu. Rev. Microbiol. 49:95-116 (1995). Alternatively or in addition, the gene(s) coding for HMG-CoA reductase can be altered by genetic engineering or classical mutagenesis techniques to decrease or prevent inhibition. Also, the action of HMG-CoA reductase can be increased by increasing the gene copy number, by increasing the level of expression of the HMG-CoA reductase gene(s), or by altering the HMG-CoA reductase gene(s) by genetic engineering or classical mutagenesis to increase the activity of the enzyme. See U.S. Pat. No. 5,460,949, the entire contents of which are incorporated herein by reference. For example, truncated HMG-CoA reductases have been produced in which the regulatory domain has been removed and the use of gene copy numbers up to about six also gives increased activity. Id. See also, Downing et al., Biochem. Biophys. Res. Commun., 94, 974-79 (1980) describing two yeast mutants having increased levels of HMG-CoA reductase. Two isozymes of HMGCoA reductase, encoded by the HMG1 and HMG2 genes, exist in S. cerevisiae. The activity of these two isozymes is regulated by several mechanisms including regulation of transcription, regulation of translation, and for Hmg2p, degradation of the enzyme in the endoplasmic reticulum (Hampton and Rine, 1994; Donald, et. al. 1997). In both Hmglp and Hmg2p, the catalytic domain resides in the COOH terminal portion of the enzyme, while the regulatory domain resides in the membrane spanning NH2-terminal region. It has been shown that overexpression of just the catalytic domain of Hmglp in S. cerevisiae increases carbon flow through the isoprenoid pathway, resulting in overproduction of squalene (Saunders, et. al. 1995; Donald, et. al., 1997). The present inventors have expressed the catalytic domain of the S. cerevisiae Hmg2p in strains having a normal (i.e., unblocked) isoprenoid pathway and observed a significant increase in the production of squalene. Furthermore, overexpression of the catalytic domain of Hmg2p resulted in increased farnesol production in an erg9 mutant, and increased farnesol and GG production in an erg9 mutant overexpressing GGPP synthase, grown in fermentors.

reactant | farnesol | OCC=C(C)CCC=C(C)CCC=C(C)C | C15H26O
reactant | HMG-CoA | OC(CC(=O)SCCNC(CCNC([C@@H](C(COP(OP(OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)OP(=O)(O)O)(=O)O)(=O)O)(C)C)O)=O)=O)(CC(=O)O)C | C27H44N7O20P3S
product | squalene | CC(C)=CCC\C(\C)=C\CC\C(\C)=C\CC\C=C(/C)\CC\C=C(/C)\CCC=C(C)C | C30H50
